US05034539
3 g (13.2 mmol) 2-amino-3-(1H-imidazol-4-yl)butanol dihydrochloride are solved in a mixture of 25 ml tetramethylenesulfone and 10 ml thionyl chloride and stirred 12 hours at room temperature. Dropwise addition of 200 ml chloroform affords 2-amino-1-chloro-3-(1H-imidazol-4-yl)butane dihydrochloride. Yield: 2.87 g (88.2%) of a hygroscopic precipitate.

reactant | 2-amino-3-(1H-imidazol-4-yl)butanol dihydrochloride | 13.2 mmol, 3 g | Cl.Cl.NC(CO)C(C)C=1N=CNC1
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetramethylenesulfone | 25 ml | C1CCCS1(=O)=O | C4H8O2S
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-amino-1-chloro-3-(1H-imidazol-4-yl)butane dihydrochloride | Cl.Cl.NC(CCl)C(C)C=1N=CNC1 | InChI=1S/C7H12ClN3.2ClH/c1-5(6(9)2-8)7-3-10-4-11-7;;/h3-6H,2,9H2,1H3,(H,10,11);2*1H
